US08470820B2
Step 4: 1-Pyridin-2-yl-1H-pyrazol-4-ylamine
A solution of (1-pyridin-2-yl-1H-pyrazol-4-yl)-carbamic acid tert-butyl ester (185 mg, 0.72 mmol) in dioxane (1.85 ml) was treated with 4M HCl in dioxane (1.85 ml) and the resulting suspension was stirred at ambient temperature for 2 hours. The reaction mixture was adjusted to basic pH with sodium hydroxide (20 ml, 0.5M aqueous solution) and extracted with dichloromethane. The combined organic phases were dried and the solvent was evaporated to yield the product as light brown solid (110 mg, 96%) which was used without any further purification. MS: M=161.3 (M+H)+

reactant | (1-pyridin-2-yl-1H-pyrazol-4-yl)-carbamic acid tert-butyl ester | 0.72 mmol, 185 mg | C(C)(C)(C)OC(NC=1C=NN(C1)C1=NC=CC=C1)=O | C13H16N4O2
reactant | HCl | 4M | Cl | ClH
reactant | sodium hydroxide | 0.5M, 20 ml | [OH-].[Na+]
solvent | dioxane | 1.85 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.85 ml | O1CCOCC1 | C4H8O2
product | 1-Pyridin-2-yl-1H-pyrazol-4-ylamine | 110 mg, 96% | N1=C(C=CC=C1)N1N=CC(=C1)N | C8H8N4
